US06734184B1
To a solution of 1-(4-fluorophenyl)-4-(trans-β-styrenesulfonyl)piperazine (620 mg, 1.79 mmol) in THF (20 ml) was added hydroxylamine (3 ml, 50% aqueous solution). The mixture was stirred for 18 hours. The solvent was evaporated. The residue was dissolved in dichloromethane and washed with water. The organic layer was dried on MgSO4 to give 1-[2-(hydroxyamino)-2-phenylethanesulfonyl]-4-(4-fluorophenyl)piperazine (730 mg).

reactant | 1-(4-fluorophenyl)-4-(trans-β-styrenesulfonyl)piperazine | 1.79 mmol, 620 mg | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)\C=C\C1=CC=CC=C1 | C18H19FN2O2S
reactant | hydroxylamine | 3 ml | NO | H3NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[2-(hydroxyamino)-2-phenylethanesulfonyl]-4-(4-fluorophenyl)piperazine | 730 mg | ONC(CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C18H22FN3O3S
